US07728030B2
2,2,2-trifluoro-N-[(1R,2S)-1-[1(4-fluorophenyl)indazol-5-yl]oxy-1-(3-methylphenyl)propan-2-yl]acetamide
Trifluoroacetic anhydride (42 μl, 0.30 mmol) was added to a stirred solution of (1R,2S)-1-(1-(4-fluorophenyl)-1H-indazol-5-yloxy)-1-m-tolylpropan-2-amine 2,2,2-trifluoroacetate (120 mg, 0.25 mmol) and triethylamine (103 μl, 0.74 mmol) in THF (6 mL) at r.t., after 20 min another portion of triethylamine (103 μl, 0.74 mmol) and trifluoroacetic anhydride (42 μl, 0.30 mmol) was added. The reaction mixture was stirred for another 80 min, concentrated, diluted with 10% NaHSO4 (aq) and extracted with EtOAc, the organic phase was washed with another portion of 10% NaHSO4 (aq) and concentrated. The crude product was further purified by preparative HPLC. Yield 89 mg (77%)

reactant | Trifluoroacetic anhydride | 0.30 mmol, 42 μl | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | (1R,2S)-1-(1-(4-fluorophenyl)-1H-indazol-5-yloxy)-1-m-tolylpropan-2-amine 2,2,2-trifluoroacetate | 0.25 mmol, 120 mg | FC(C(=O)O)(F)F.FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)O[C@@H]([C@H](C)N)C=1C=C(C=CC1)C
reactant | triethylamine | 0.74 mmol, 103 μl | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 0.74 mmol, 103 μl | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 0.30 mmol, 42 μl | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 2,2,2-trifluoro-N-[(1R,2S)-1-[1(4-fluorophenyl)indazol-5-yl]oxy-1-(3-methylphenyl)propan-2-yl]acetamide | FC(C(=O)N[C@H]([C@@H](C1=CC(=CC=C1)C)OC=1C=C2C=NN(C2=CC1)C1=CC=C(C=C1)F)C)(F)F | C25H21F4N3O2
